* Piezo charge-amplifier demo — EdgeNode Vibe
.param FIMP=100 AmpIMP=1m
* Piezo modeled as current impulse into virtual ground amplifier
Ipiezo NIN 0 PULSE(0 AmpIMP 0 1u 1u 1m 2m)

* Power rails (3.3 V logic for EdgeNode)
VCC VCC 0 DC 3.3
Cdec VCC 0 10u

* Virtual-ground reference
Rref1 VCC VREF 100k
Rref2 VREF 0 100k
Cref VREF 0 10u

* Charge amplifier: feedback capacitor converts charge→voltage
XU1 NIN VREF OUT 0 CHARGE_AMP
Cfb OUT NNEG 1p
Rfb OUT NNEG 1G   ; slow reset path for DC restoration

* Simple peak detector for event capture
D1 OUT PD 1N4148
Cp PD VREF 10n

.tran 0 0.1
.control
run
* Replace CHARGE_AMP subckt with vendor model for realistic behavior
.endc
.end