* Comparator threshold demo — EdgeNode Sense
.param VTH=1.65
* Signal source (example transient)
Vin VIN 0 PULSE(0 3.3 0 1u 1u 1m 2m)

VCC VCC 0 DC 3.3
Cdec VCC 0 10u

* Simple comparator with hysteresis (positive feedback)
R1 VREF 0 100k
Vref VREF 0 DC {VTH}
Rpos OUT VFB 200k
Rneg VFB VREF 200k
* Ideal comparator model
Ecomp OUT 0 VIN VFB 100

* Output can drive a latch or wake line
Rload OUT 0 10k

.tran 0 0.01
.control
run
.endc
.end